US05908930
5,10-Dihydro-7,8-dimethoxy-3-methylpyrimido [4,5-b]quinolin-4(1 H)-one
To a heated (90° C.), stirred solution of 7,8-dimethoxy4-oxo-3,4,5,10-tetrahydropyrimido[4,5-b]quinoline (0.25 g, 0.96 mmol) and sodium hydroxide (0.05 g, 1.25 mmol) in water (3 mL) was added dimethylsulfate (0.23 mL, 2.4 mmol). After 0.5 hour, the reaction mixture was diluted with water (20 mL), the solids filtered, washed with acetonitrile and dried in vacuo to afford 0.13 g of the title compound; m.p. 225-230° C.

reactant | 7,8-dimethoxy4-oxo-3,4,5,10-tetrahydropyrimido[4,5-b]quinoline | 0.96 mmol, 0.25 g | COC=1C=C2CC3=C(NC2=CC1OC)N=CNC3=O | C13H13N3O3
reactant | sodium hydroxide | 1.25 mmol, 0.05 g | [OH-].[Na+]
reactant | dimethylsulfate | 2.4 mmol, 0.23 mL | COS(=O)(=O)OC | C2H6O4S
solvent | water | 3 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | 5,10-Dihydro-7,8-dimethoxy-3-methylpyrimido [4,5-b]quinolin-4(1 H)-one | 0.13 g | COC=1C=C2CC3=C(NC2=CC1OC)NCN(C3=O)C | C14H17N3O3
